US05705499
a) 2-Chloro-5,11-dihydro-11-ethyl-5-methyl-8-[2-(2-carboxypyrid-4-yl)ethyl]-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
By a procedure analogous to that described in Example 51b, 2-chloro-5,11-dihydro-11-ethyl-8-ethynyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.83 g, 2.64 mmol) was coupled with 4-bromopicolinic acid (prepared by potassium permanganate oxidation of 4-bromo-2-picoline) (0.53 g, 2.62 mmol). The product was hydrogenated according to the procedure described in Example 3b to provide 0.4 g of the title compound as a mixture containing the corresponding des-chloro analog.

reactant | 2-chloro-5,11-dihydro-11-ethyl-8-ethynyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 2.64 mmol, 0.83 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)C#C)=O)C | C16H13ClN4O
reactant | 4-bromopicolinic acid | 2.62 mmol, 0.53 g | BrC1=CC(=NC=C1)C(=O)O | C6H4BrNO2
product | 2-Chloro-5,11-dihydro-11-ethyl-5-methyl-8-[2-(2-carboxypyrid-4-yl)ethyl]-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.4 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCC3=CC(=NC=C3)C(=O)O)=O)C | C22H20ClN5O3
